************ Power Discrete BJT Electrical Parameters ***************
** Product: 2SC5242
** Package: TO-3P
** Audio Power Amplifier (Complement to FJA4213)
**-------------------------------------------------------------------
.subckt SC5242 1 2 3
q1 1 2 3 F5242
.model F5242 NPN
+ IS  = 3.0463E-11       BF  = 96.20           VAF = 100
+ IKF = 15.04256         ISE = 5.6190E-11      NE  = 2.0
+ BR  = 4.849            IKR = 1.05012         VAR = 100
+ ISC = 7.18E-8          NC  = 1.5             RE  = 0.0025
+ RB  = 20.18            RBM = 0.0014          IRB = 1.0E-7
+ RC  = 0.01137          CJE = 4.5000E-10      CJC = 8.4915E-10        
+ VJC = 0.68977          MJC = 0.54081         TF  = 6.8583E-10       
+ XTF = 9.5721           VTF = 10.425          ITF = 6.8697E-2       
+ TR  = 1.000E-8         XTB = 1.45            EG  = 0.82
+ FC  = 0.5
.ends SC5242
***************** Power Discrete Bipolar Thermal Model ****************
.subckt SC5242_Thermal TH TL
CTHERM1 TH 6 1.20e-3
CTHERM2 6 5  2.60e-3
CTHERM3 5 4  5.20e-3
CTHERM4 4 3  1.20e-2
CTHERM5 3 2  2.14e-2
CTHERM6 2 TL 8.20e-2 
RTHERM1 TH 6 5.00e-3
RTHERM2 6 5  1.20e-2
RTHERM3 5 4  1.53e-1
RTHERM4 4 3  2.30e-1
RTHERM5 3 2  2.70e-1
RTHERM6 2 TL 2.90e-1
.ends SC5242_Thermal 
**-------------------------------------------------------------------
** Creation: Mar.-11-2008   Rev: 0.0
** Fairchild Semiconductor

